US05286252
(h) Preparation of 3-[3-(benzylamino)propyl]benzamide (free base)
To 6.7 g (0.0187 mole) of 3-[3-(benzylamino)propyl]benzamide oxalate (the product of step (g)) slurried in 20 ml water, 7.7 g (0.056 mole) potassium carbonate (and 700 mg potassium hydroxide) in 50 ml ethyl acetate was stirred until all solids were dissolved. The aqueous and ethyl acetate phases were separated. The aqueous layer was washed with about 30 ml ethyl acetate. The ethyl acetate extracts were combined, washed over saturated saline and dried over sodium sulfate, filtered. The filtrate was dried to an oil on a vacuum pump overnight to give 4.9 g of the above-identified product.

reactant | 3-[3-(benzylamino)propyl]benzamide oxalate | 0.0187 mole, 6.7 g | C(C(=O)O)(=O)O.C(C1=CC=CC=C1)NCCCC=1C=C(C(=O)N)C=CC1
reactant | potassium carbonate | 0.056 mole, 7.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 700 mg | [OH-].[K+]
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-[3-(benzylamino)propyl]benzamide | 4.9 g | C(C1=CC=CC=C1)NCCCC=1C=C(C(=O)N)C=CC1 | C17H20N2O
